US07307086B2
Methyl (1R,4S)-4-[(tert-Butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate
To a solution of (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylic acid (10.0 g, 44 mmol) in DMF (25 mL) was added potassium carbonate (6.33 g, 45.8 mmol) followed by methyl iodide (4.0 mL, 64 mmol). After being stirred at room temperature overnight, the reaction mixture was diluted with EtOAc. The solution was washed with water four times and brine one time, dried (MgSO4) and concentrated. The residue was dried under high vacuum overnight to provide the title compound (11 g, 99%). MS calculated for C12H19NO4: (M+H)+242; found 142.1 (M−Boc+H)+. 1H NMR (CDCl3) δ 5.86 (m, 2H), 4.90 (m, 1H), 4.80 (m, 1H), 3.72 (s, 3H), 3.50 (m, 1H), 2.51 (m, 1H), 1.86 (m, 1H), 1.42 (s, 9H).

reactant | (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylic acid | 44 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)O | C11H17NO4
reactant | potassium carbonate | 45.8 mmol, 6.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 64 mmol, 4.0 mL | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl (1R,4S)-4-[(tert-Butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate | 11 g, 99% | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)OC | C12H19NO4
